Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.11651939244
[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4][C:5]=[O:6],1.7441988516099998
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],3.67743200953
[H:11].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.4046431763400005
[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[O:8].[H:9],2.41861324289
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[O:10][H:11],-1.03946327604
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7],1.8821720683
[H:1][C:2]#[C:3][C:4]1[C:5]2[C:6]([H:7])[C:8]12>>[H:1][C:2]#[C:3][C:4]([C:5]#[C:6][H:7])=[C:8],0.32047187067
[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:5][C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[H:4],0.40892992
[H:1][C:2]([H:3])=[C:4]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.60825587132
[C:1]#[C:2][C:3][O:7][H:8].[C:4]#[C:5][H:6]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8],-5.47856330743
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],1.87966750861
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[C:1]#[C:2][H:3].[C:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10],2.6187628833
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2][C:3]([H:4])=[C:5][H:6].[O:7][H:8],6.26033219152
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.78926520403
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.01043831538
[H:1][C:2]#[C:3][C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],1.2132101801700002
[O:1]=[C:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:4].[O:1]=[C:2]=[C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.10968496918
[C:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C@@:2]([H:3])([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.4072803404400003
[C:1]=[C:2]1[O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9],2.02281928067
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-8.07257936
[C:6]([H:7])(=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.0597616922
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-1.10407925494
[H:1][C:2]#[C:3][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.2879842121
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:10]/[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-2.99184055917
[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-0.020233110461
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.3750277431600002
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-5.11694561699
[C:5]([H:6])([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[H:11],1.48121140313
